US08912208B2
B. (5-Bromo-pyrazin-2-yl)-(6-trifluoromethyl-pyridin-3-yl)-amine
A solution of pyrazin-2-yl-(6-trifluoromethyl-pyridin-3-yl)-amine (0.47 g) was dissolved in 50 Ml MeOH and then charged with N-bromosuccinimide (0.35 g) in a single portion as a solid. The reaction was stirred overnight at room temperature, then concentrated in vacuo. Purification by silica gel chromatography (25% EtOAc in hexanes) afforded the title compound: 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 6.7 (s, 1 H) 7.5 (s, 1 H) 7.9 (s, 1 H) 8.2 (s, 2 H) 8.6 (s, 1 H); (M+H)+ 320.9.

reactant | pyrazin-2-yl-(6-trifluoromethyl-pyridin-3-yl)-amine | 0.47 g | N1=C(C=NC=C1)NC=1C=NC(=CC1)C(F)(F)F | C10H7F3N4
reactant | N-bromosuccinimide | 0.35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | MeOH | CO | CH4O
product | (5-Bromo-pyrazin-2-yl)-(6-trifluoromethyl-pyridin-3-yl)-amine | BrC=1N=CC(=NC1)NC=1C=NC(=CC1)C(F)(F)F | C10H6BrF3N4
